US05252536
Preparation of Ethyl (2,4-dinitrophenyl)acetate
A mixture containing 2,4-dinitrophenylacetic acid (100 g, 0.442 mol), concentrated sulfuric acid (1.5 mL) and ethanol (700 mL) is heated at reflux for 61/2 hours, cooled to room temperature and filtered. The filtrate is concentrated in vacuo to a volume of 200 mL then diluted with water. The pH of the aqueous mixture is adjusted to about a with solid sodium hydrogen carbonate and extracted with ether. The combined organic extracts are washed with water, dried over anhydrous sodium sulfate, decolorized with charcoal and concentrated in vacuo to obtain the title compound as a yellow oil (102.4 g).

reactant | 2,4-dinitrophenylacetic acid | 0.442 mol, 100 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])CC(=O)O | C8H6N2O6
reactant | sulfuric acid | 1.5 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 700 mL | C(C)O | C2H6O
product | Ethyl (2,4-dinitrophenyl)acetate | 102.4 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])CC(=O)OCC | C10H10N2O6
